US08212045B2
To 5-bromo-3-(2,6-dimethylpyridin-3-yloxy)picolinonitrile (25 g, 82 mmol) was added concentrated sulfuric acid (25 ml) and the mixture stirred at ambient temperature over night. The mixture was poured onto ice (500 ml) and the aqueous mixture neutralized using 50% NaOH. A solid formed at pH 7. The solid was collected and dried in vacuo to afford 3-(2,6-dimethylpyridin-3-yloxy)-5-bromopicolinamide (24.2 g, 92%).

reactant | 5-bromo-3-(2,6-dimethylpyridin-3-yloxy)picolinonitrile | 82 mmol, 25 g | BrC=1C=C(C(=NC1)C#N)OC=1C(=NC(=CC1)C)C | C13H10BrN3O
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaOH | [OH-].[Na+]
product | 3-(2,6-dimethylpyridin-3-yloxy)-5-bromopicolinamide | 24.2 g, 92% | CC1=NC(=CC=C1OC=1C(=NC=C(C1)Br)C(=O)N)C | C13H12BrN3O2
